US05367077
2-Methoxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]indole (350 mg, 1.7 mmol) was refluxed in 48% hydrobromic acid for 15 hours. The water was removed from the mixture by distillation under reduced pressure and the residue was dissolved in pyridine (10 mL). This solution was cooled in an ice bath and treated with dropwise addition of trifluoromethanesulfonic anhydride (0.3 mL, 2.0 mmol). The mixture was stirred at room temperature for 6 hours. The pyridine was removed under reduced pressure and the residue was extracted from a saturated solution of potassium carbonate with ethyl acetate. The extract was washed with water followed by brine, then dried over sodium sulfate, filtered and concentrated. Purification by silica-gel chromatography (30% ethyl acetate in hexanes) gave solid 2-trifluoromethanesufonyloxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]indole.

reactant | 2-Methoxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]indole | 1.7 mmol, 350 mg | COC=1C=CC=2NC=3CCCCC3C2N1 | C12H14N2O
reactant | trifluoromethanesulfonic anhydride | 2.0 mmol, 0.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | hydrobromic acid | Br | BrH
product | 2-trifluoromethanesufonyloxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]indole | FC(S(=O)(=O)OC=1C=CC=2NC=3CCCCC3C2N1)(F)F | C12H11F3N2O3S
